US06750314B2
Phenol and acetone were passed through a column type reactor in which an ion exchange resin having a sulfonic group packed, in a molar ratio of phenol/acetone of 13, and a reaction solution of bisphenol A was obtained with 95% of conversion of acetone by a reaction at an inlet temperature of 55° C. and an outlet temperature of 75° C. Then, the above reaction solution was subjected to distillation to remove low boiling point substances such as unreacted acetone and water as a by-product, followed by crystallization at 50° C. by means of external intercooling to obtain a slurry containing an adduct crystal (adduct) comprising bisphenol A and phenol. The crystal adduct slurry was subjected to filtration under reduced pressure by means of a filter having a filter cloth with an aperture of 106 μm set thereto, while keeping the slurry temperature at 50° C., and the obtained crystal adduct cake was washed with refined phenol. The finally obtained adduct was a mixture with a composition of bisphenol A/phenol=7/3 (weight ratio). Impurities in the adduct at this stage were 2,4-bisphenol A=84 ppm, chroman-1=5 ppm and trisphenol=30 ppm, and no 4-isopropenyl phenol was detected. In order to hold the adduct in a molten state in a stock tank (made of SUS316) under conditions of the temperature and time as identified in Table 1, phenol was added to obtain a composition adjusted to have the composition as identified in Table 1. Then, the composition was held in a molten state under normal pressure under nitrogen sealing under conditions as identified in Table 1, and then the content of 4-isopropenyl phenol (IPP) contained in the composition was measured. The results are shown in Table 1.

reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
reactant | phenol acetone | C1(=CC=CC=C1)O.CC(=O)C
solvent | acetone | CC(=O)C | C3H6O
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
